US06492370B1
N-Isoamyl-3-(phenylthio)-DL-alanine Ethyl Ester Hydrochloride (Reference Compound No. 5-1)
A solution of N-isovaleryl-3-(phenylthio)-DL-alanine ethyl ester (1.0 g) in anhydrous tetrahydrofuran (3.2 ml) is added to a 1 M solution of a borane-tetrahydrofuran complex salt in tetrahydrofuran (4.85 ml) dropwise under a nitrogen atmosphere and ice cooling, and the mixture is refluxed with stirring for one hour. A 3 N solution of hydrogen chloride in ethanol (2 ml) is added to the reaction mixture under ice cooling, and the mixture is further refluxed for one hour. The reaction mixture is concentrated under reduced pressure, 5% sodium hydrogencarbonate is added to the concentrate, and the whole is extracted with ether. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography, and the resulting oily matter is dissolved in ether. A 4.6 N solution of hydrogen chloride in ethyl acetate is added thereto under ice cooling, and the resulting precipitate is filtered off to give 163 mg (15%) of the titled compound (Reference compound No. 5-1) as crystals.

reactant | N-isovaleryl-3-(phenylthio)-DL-alanine ethyl ester | 1.0 g | C(C)OC(C(NC(CC(C)C)=O)CSC1=CC=CC=C1)=O | C16H23NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.85 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-Isoamyl-3-(phenylthio)-DL-alanine Ethyl Ester Hydrochloride | 163 mg, 15% | Cl.C(C)OC(C(NCCC(C)C)CSC1=CC=CC=C1)=O | InChI=1S/C16H25NO2S.ClH/c1-4-19-16(18)15(17-11-10-13(2)3)12-20-14-8-6-5-7-9-14;/h5-9,13,15,17H,4,10-12H2,1-3H3;1H
